US04880806
N-Cyclopropyl-2-methoxymethyl-3-(4-methyl-1-piperazinyl)-4-fluoro-6-nitroaniline
N-Cyclopropyl-2-methoxymethyl-3-(4-ethoxycarbonyl-1-piperazinyl)-4-fluoro-6-nitroaniline, orange red needles, m.p. 89°-90° C. (ethanol-water)

reactant | N-Cyclopropyl-2-methoxymethyl-3-(4-ethoxycarbonyl-1-piperazinyl)-4-fluoro-6-nitroaniline | C1(CC1)NC1=C(C(=C(C=C1[N+](=O)[O-])F)N1CCN(CC1)C(=O)OCC)COC | C18H25FN4O5
solvent | ethanol water | C(C)O.O
product | N-Cyclopropyl-2-methoxymethyl-3-(4-methyl-1-piperazinyl)-4-fluoro-6-nitroaniline | C1(CC1)NC1=C(C(=C(C=C1[N+](=O)[O-])F)N1CCN(CC1)C)COC | C16H23FN4O3
